US07678815B2
2-Methyl-5-(2-methyl-pyridin-3-ylamino)-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide
A solution of 5-bromo-2-methyl-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide (0.24 g, 0.76 mmol) and 2-methyl-pyridin-3-ylamine (0.099 g, 0.92 mmol) in dry dioxane (12 ml) was degassed by sonication and argon bubbling. 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.149 g, 0.26 mmol) and palladium dibenzylideneacetone chloroform complex (0.081 g, 0.08 mmol) were added and the mixture was stirred until dissolution was complete. Finally, the mixture was treated with cesium carbonate (0.495 g, 1.52 mmol) and irradiated in a microwave oven at 100° C. for 10 min, 130° C. for 10 min and 150° C. for 10 min. The solvent was removed under vacuum and the residue purified by flash chromatography (heptane, ethyl acetate) to yield the title compound (0.178 g, 68%) as a light brown solid, MS (ISP): m/e=344.0 (M+H+).

reactant | 5-bromo-2-methyl-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | 0.76 mmol, 0.24 g | FC=1C=CC(=NC1)NC(=O)C=1N=C(SC1Br)C | C10H7BrFN3OS
reactant | 2-methyl-pyridin-3-ylamine | 0.92 mmol, 0.099 g | CC1=NC=CC=C1N | C6H8N2
reactant | 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene | 0.26 mmol, 0.149 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.52 mmol, 0.495 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 2-Methyl-5-(2-methyl-pyridin-3-ylamino)-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | 0.178 g, 68% | FC=1C=CC(=NC1)NC(=O)C=1N=C(SC1NC=1C(=NC=CC1)C)C | C16H14FN5OS
